US06166040
(15) 5-Chloro-3,3,dimethyl-1-(2-hydroxy-1-ethyl)-1,3-dihydro-2H-indol-2-one
Prepared from 5-chloro-3,3,dimethyl-1,3-dihydro-2H-indol-2-one (prepared by the method of Endler and Becker; Organic Syntheses Coll. vol.4, page 657) and 2-(2-chloroethoxy)tetrahydro-2H-pyran as described above.

reactant | 5-chloro-3,3,dimethyl-1,3-dihydro-2H-indol-2-one | ClC=1C=C2C(C(NC2=CC1)=O)(C)C | C10H10ClNO
reactant | 2-(2-chloroethoxy)tetrahydro-2H-pyran | ClCCOC1OCCCC1 | C7H13ClO2
product | 5-Chloro-3,3,dimethyl-1-(2-hydroxy-1-ethyl)-1,3-dihydro-2H-indol-2-one | ClC=1C=C2C(C(N(C2=CC1)CCO)=O)(C)C | C12H14ClNO2
